US06869954B2
5) Preparation of 2-(4-fluorobenzyl)-6-(3-fluoro-4-methoxyphenyl)-4-(4-methyl-1-piperazinyl)methyl-2H-pyridazin-3-one
Following the procedure of Example 1(10), 2-(4-fluorobenzyl)-6-(3-fluoro-4-methoxyphenyl)-4-methanesulfonyloxymethyl-2H-pyridazin-3-one and 1-methylpiprazine were reacted to yield the title compound as a slightly-brown crystalline powder (yield: 45.8%).

reactant | 2-(4-fluorobenzyl)-6-(3-fluoro-4-methoxyphenyl)-4-methanesulfonyloxymethyl-2H-pyridazin-3-one | FC1=CC=C(CN2N=C(C=C(C2=O)COS(=O)(=O)C)C2=CC(=C(C=C2)OC)F)C=C1 | C20H18F2N2O5S
reactant | 1-methylpiprazine | CN1CCNCC1 | C5H12N2
product | 2-(4-fluorobenzyl)-6-(3-fluoro-4-methoxyphenyl)-4-(4-methyl-1-piperazinyl)methyl-2H-pyridazin-3-one | yield: 45.8% | FC1=CC=C(CN2N=C(C=C(C2=O)CN2CCN(CC2)C)C2=CC(=C(C=C2)OC)F)C=C1 | C24H26F2N4O2
